US04792567
Under a nitrogen atmosphere, a mixture of 0.7 gram (catalyst) of bis(1,3-diphenylphosphine)propane-nickel(II) chloride in 200 mL of dry diethyl ether was stirred, and 40 grams (0.245 mole) of 2-bromothiophene was added. The mixture was cooled to 0° C., and 113 mL (0.328 mole) of phenylmagnesium bromide (3M in diethyl ether) was added during a 20 minute period. Upon complete addition the reaction mixture was allowed to warm to room temperature and then was heated at reflux for 16 hours. The reaction mixture was poured into 500 mL of an aqueous 10% hydrochloric acid solution and shaken. The organic layer was separated from the mixture and washed with distilled water. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. This residue was distilled under vacuum to yield 36 grams of 2-phenylthiophene, b.p. 140° C. 3 mm, which slowly solidified upon standing.

reactant | 2-bromothiophene | 0.245 mole, 40 grams | BrC=1SC=CC1 | C4H3BrS
reactant | phenylmagnesium bromide | 0.328 mole, 3M, 113 mL | C1(=CC=CC=C1)[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2-phenylthiophene | 36 grams | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
